US08912188B2
Methyl 7-fluoro-1-(4-methoxybenzyl)-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (35.0 g, 98 mmol) was added to POCl3 with stirring overnight at 130° C. and concentrated in vacuo. The product was precipitated via the addition of methanol (150 ml) and collected by filtration to afford methyl 3-chloro-7-fluoro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a yellow solid (25.0 g, 68%).

reactant | Methyl 7-fluoro-1-(4-methoxybenzyl)-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 98 mmol, 35.0 g | FC1=C(C=C2NC(C(N(C2=C1)CC1=CC=C(C=C1)OC)=O)=O)C(=O)OC | C18H15FN2O5
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | methyl 3-chloro-7-fluoro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 25.0 g, 68% | ClC=1C(N(C2=CC(=C(C=C2N1)C(=O)OC)F)CC1=CC=C(C=C1)OC)=O | C18H14ClFN2O4
